US06130228
8-Amino-6, 7-dihydro-5H-benzo-[6, 7] cyclohepta [1, 2-b] quinoline (6)
2-amino-1-cyano-benzene (2.0 g, 16.9 mmol), 1-benzosuberone (6, 7, 8, 9-tetrahydrobenzocyclohepten-5-one) (3.0 g, 18.7 mmol) and boron trifluoride diethyl etherate(1M, 2.6 ml, 18.7 mmol) were treated according to the general procedure described herein to give the title compound.

reactant | 2-amino-1-cyano-benzene | 16.9 mmol, 2.0 g | NC1=C(C=CC=C1)C#N | C7H6N2
reactant | 1-benzosuberone | 18.7 mmol, 3.0 g | C1CCC(=O)C2=CC=CC=C2C1 | C11H12O
reactant | boron trifluoride diethyl etherate | 18.7 mmol, 1M, 2.6 ml | B(F)(F)F.CCOCC
product | 8-Amino-6, 7-dihydro-5H-benzo-[6, 7] cyclohepta [1, 2-b] quinoline | NC1=C2C(=NC3=CC=CC=C13)C1=C(CCC2)C=CC=C1 | C18H16N2
